US09120823B2
To a mixture of 2-(3-ethylsulfonyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine (500 mg) and chloroform (10 ml) was added m-chloroperbenzoic acid (purity: not less than 65%) (429 mg) while ice-cooling, and the mixture was stirred at room temperature for 1 hour and at 50° C. for 2 hours. To the reaction mixture were poured aqueous sodium thiosulfate solution and aqueous sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(3-ethylsulfonyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfinyl-3H-imidazo[4,5-b]pyridine (353 mg), which is hereinafter referred to as “the present compound 20”.

reactant | 2-(3-ethylsulfonyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine | 500 mg | C(C)S(=O)(=O)C=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C15H13F3N4O2S2
reactant | m-chloroperbenzoic acid | 429 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-ethylsulfonyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfinyl-3H-imidazo[4,5-b]pyridine | 353 mg | C(C)S(=O)(=O)C=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)S(=O)C(F)(F)F)N1C | C15H13F3N4O3S2
